### PR TITLE
[Merged by Bors] - feat(Multiset/Fintype): `Multiset.ToType` equivalence between `v ::ₘ m` and `Option m`

### PR DESCRIPTION
**Pull request by Command-Master**
Also add an arbitrary equivalence `s ≃ s.map f`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Multiset/Fintype.lean [hunk 1]
```diff
@@ -176,59 +174,136 @@ def Multiset.coeEquiv (m : Multiset α) : m ≃ m.toEnumFinset where
...
+            Equiv.coe_fn_symm_mk, cast_symm_apply_fst]
+        split <;> simp_all⟩
+
+/--
+One of the possible equivalences from `Multiset.mapEquiv_aux`, selected using choice.
+-/
+noncomputable def mapEquiv (s : Multiset α) (f : α → β) : s ≃ s.map f :=
+  (Multiset.mapEquiv_aux s f).out.1
+
+theorem mapEquiv_apply (s : Multiset α) (f : α → β) (v : s) : s.mapEquiv f v = f v :=
```
Comment (kim-em) [inline Mathlib/Data/Multiset/Fintype.lean:306]:
```suggestion
@[simp]
theorem mapEquiv_apply (s : Multiset α) (f : α → β) (v : s) : s.mapEquiv f v = f v :=
```

File: Mathlib/Data/Multiset/Fintype.lean [hunk 2]
```diff
@@ -176,59 +174,136 @@ def Multiset.coeEquiv (m : Multiset α) : m ≃ m.toEnumFinset where
...
+    · simp
+    · simp only [Option.elim_some, Nat.zero_eq, Fin.coe_castLE, Fin.eta, Sigma.eta, dite_eq_ite,
+      ite_eq_right_iff, reduceCtorEq, imp_false, not_and]
+      apply ne_of_lt ∘ (· ▸ x.2.2)
+
+@[simp]
+lemma consEquiv_symm_none {v : α} :
+    (consEquiv (m := m) (v := v)).symm none =
+      ⟨v, ⟨m.count v, (count_cons_self v m) ▸ (Nat.lt_add_one _)⟩⟩ :=
+  rfl
```
Comment (kim-em) [inline Mathlib/Data/Multiset/Fintype.lean:281]: We can state the `symm_some` lemma too, right?

For that matter the forward direction for `x = v` (in two cases) as well.

File: Mathlib/Data/Multiset/Fintype.lean [hunk 3]
```diff
@@ -176,59 +174,136 @@ def Multiset.coeEquiv (m : Multiset α) : m ≃ m.toEnumFinset where
...
+def cast {s t : Multiset α} (h : s = t) : s ≃ t where
+  toFun x := ⟨x.1, x.2.cast (by simp [h])⟩
+  invFun x := ⟨x.1, x.2.cast (by simp [h])⟩
+  left_inv x := rfl
+  right_inv x := rfl
+
+instance : IsEmpty (0 : Multiset α) := Fintype.card_eq_zero_iff.mp (by simp)
+
+instance : IsEmpty (∅ : Multiset α) := Fintype.card_eq_zero_iff.mp (by simp)
+
```
Comment (kim-em) [inline Mathlib/Data/Multiset/Fintype.lean:247]: I think these probably could live in an earlier file?

Comment (Command-Master) [reply Mathlib/Data/Multiset/Fintype.lean:247]: This is the file where the coercion from multiset to `Type` is defined, and this depends on that

**Review by Ruben-VandeVelde — APPROVED** [review]
lgtm

maintainer delegate

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
